US04024147
b. 4-(2,6-Dichlorobenzamido)-1-(2-[N-(p-methylbenzyl)-N-(2-pyridyl)amino]ethyl)piperidine
The title compound is prepared in a manner similar to Example 11 using 1-(2-chloroethyl)-4-(2,6-dichlorobenzamido)piperidine and 2-(p-methylbenzyl)aminopyridine.

reactant | 1-(2-chloroethyl)-4-(2,6-dichlorobenzamido)piperidine | ClCCN1CCC(CC1)NC(C1=C(C=CC=C1Cl)Cl)=O | C14H17Cl3N2O
reactant | 2-(p-methylbenzyl)aminopyridine | CC1=CC=C(CNC2=NC=CC=C2)C=C1 | C13H14N2
product | 4-(2,6-Dichlorobenzamido)-1-(2-[N-(p-methylbenzyl)-N-(2-pyridyl)amino]ethyl)piperidine | ClC1=C(C(=O)NC2CCN(CC2)CCN(C2=NC=CC=C2)CC2=CC=C(C=C2)C)C(=CC=C1)Cl | C27H30Cl2N4O
